US05236952
1.26 g of sodium acetate are added to a solution of 1.35 g of 2-bromo-3',4'-dihydroxy-5'-nitroacetophenone in 25 ml of alcohol and heated to boiling under reflux. After 6 hours, the reaction mixture is filtered from separated sodium bromide and evaporated. The residue is dissolved in ethyl acetate. The solution is washed with saturated sodium chloride solution, dried over sodium sulfate, filtered and evaporated at 50°. There is obtained (3,4-dihydroxy-5-nitrobenzoyl)methyl acetate of m.p. 166°-168° (from ethyl acetate/ether).

reactant | sodium acetate | 1.26 g | C(C)(=O)[O-].[Na+]
reactant | 2-bromo-3',4'-dihydroxy-5'-nitroacetophenone | 1.35 g | BrCC(=O)C1=CC(=C(C(=C1)[N+](=O)[O-])O)O | C8H6BrNO5
product | (3,4-dihydroxy-5-nitrobenzoyl)methyl acetate | C(C)(=O)OCC(C1=CC(=C(C(=C1)[N+](=O)[O-])O)O)=O | C10H9NO7
